data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)c(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(F)c1)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1F"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1F", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1F"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1F"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1F", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(NN=CCc2ccccc2)cc(F)c1OC.Cl[Zn]Cl", "products": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC"}, {"reactants": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC", "products": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC.[H+]"}, {"reactants": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(F)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2OC)C(=N)C=C1", "products": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(F)c1OC"}, {"reactants": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(F)c1OC", "products": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(F)c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc2[nH]cc(-c3ccccc3)c2c(F)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(OC)c1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1C)C(C)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1C"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1C"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1C"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1C.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(OC)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1ccc(OC)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1ccc(OC)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1ccc(OC)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc(OC)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc(OC)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1c(Cl)cccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1c(Cl)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1c(Cl)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1c(Cl)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1c(Cl)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1c(Cl)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1c(Cl)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2cccc(Cl)c2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(Cl)c2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1c(Cl)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1c(Cl)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1c(Cl)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1c(Cl)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1c(Cl)cccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
